US05789596
1-Benzyloxycarbonyl-4-[2-(methylthio)phenyl]-1,4-dihydropyridine [IV, R1 =2-(CH3S)C6H4, R2 =OCH2C6H5 ]
2.9 g (118 mmol) of magnesium turnings was introduced into 100 ml of tetrahydrofuran (dried over molecular sieve) under argon. Approximately 5 g of 2-bromothioanisole was added dropwise at room temperature, and the mixture was heated to 50° C. After the Grignard reaction had started, the mixture warmed further to reflux. The remainder of the total of 20.0 g (98.5 mmol) of 2-bromothioanisole was added dropwise so that the reaction mixture continued to reflux. The resultant solution of the Grignard compound 2-(methylthio)phenylmagnesium bromide was then allowed to cool slowly to room temperature. Working under argon, 250 ml of dried tetrahydrofuran was introduced into a second flask; 11.7 g (148 mmol) of pyridine and 0.93 g (4.9 mmol) of copper(I) iodide were added; and the mixture was cooled to -30° C. At -30° to -25° C., 16.8 g (98.5 mmol) of benzyl chloroformate was added dropwise, a yellow-red precipitate being formed first, followed by a beige suspension. The solution of the Grignard compound was added dropwise to this suspension at the same temperature; cooling was then stopped and the mixture was stirred for a further 2 hours after it had reached room temperature. The reaction mixture was poured into 120 ml of 20 percent strength aqueous ammonium chloride solution and stirred vigorously. 500 ml of toluene was then added and the phases were separated. The deep blue aqueous phase was extracted three times with 50 ml of toluene each time, and the combined organic phases were dried over sodium sulfate and evaporated to dryness using a rotary evaporator. The brown residue was kept under high vacuum for a further 1 hour to remove solvent residues, then dissolved in 500 to 1000 ml of boiling methanol and filtered while still hot. The filtrate was cooled slowly to room temperature and eventually to +2° C., the product forming as a voluminous yellowish-white precipitate. This was filtered off and dried at 35° C. in vacuo. The yield of the product was 20.8 g (62.7 percent) of yellowish-white solids. Other data concerning the product was:

reactant | magnesium | 118 mmol, 2.9 g | [Mg] | Mg
reactant | 2-bromothioanisole | 5 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | 2-bromothioanisole | 98.5 mmol, 20.0 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | 2-(methylthio)phenylmagnesium bromide | CSC1=C(C=CC=C1)[Mg]Br
reactant | pyridine | 148 mmol, 11.7 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 98.5 mmol, 16.8 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper(I) iodide | 4.9 mmol, 0.93 g | [Cu]I
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxycarbonyl-4-[2-(methylthio)phenyl]-1,4-dihydropyridine | C(C1=CC=CC=C1)OC(=O)N1C=CC(C=C1)C1=C(C=CC=C1)SC | C20H19NO2S
